US07429609B2
(3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl)carbamic acid tert-butyl ester
To a suspension of 1.0 g of 3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid in tert-butanol were added 0.57 g of diphenylphosphoryl azide and 0.31 mL of triethylamine at room temperature, and heated at reflux for 6 hours. The solution was diluted with ethyl acetate, the organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10), to afford 455 mg of the title compound as colorless crystals.

reactant | 3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid | 1.0 g | IC1=NN(C2=CN=C(C=C21)C(=O)O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H18IN3O2
reactant | diphenylphosphoryl azide | 0.57 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl)carbamic acid tert-butyl ester | 455 mg | C(C)(C)(C)OC(NC=1C=C2C(=CN1)N(N=C2I)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C30H27IN4O2
